US08404856B2
Step 1: 2-chloro-3-(3,5-dibromophenoxy)-4-(trifluoromethyl)pyridine 18-1
To a round bottom flask charged with 3,5-dibromophenol (1.16 g, 4.61 mmol) and potassium carbonate (1.27 g, 9.22 mmol) was added N-methylpyrrolidinone (10 mL). To this suspension under N2 was added 2-chloro-3-fluoro-4-(trifluoromethyl)pyridine (0.920 g, 4.61 mmol) and the reaction mixture was placed in an oil bath at 120° C. After 30 minutes, the reaction mixture was allowed to cool to room temperature. Water (50 mL) was added and the mixture was extracted with ethyl acetate (2×50 mL). The combined organic extracts were washed with brine (3×50 mL), dried (MgSO4), filtered and the solvent was evaporated under reduced pressure. The resulting residue was purified by column chromatography on a pre-packed silica gel Redi Sep 120 gram column, eluting with 0-75% CH2Cl2 in hexanes to afford the title compound. 1H NMR (CDCl3) δ 8.53 (d, J=5.0 Hz, 1H), 7.62 (d, J=5.0 Hz, 1H), 7.44-7.42 (m, 1H), 6.92-6.88 (m, 2H). LRMS (M+1)=431.5.

reactant | 3,5-dibromophenol | 4.61 mmol, 1.16 g | BrC=1C=C(C=C(C1)Br)O | C6H4Br2O
reactant | potassium carbonate | 9.22 mmol, 1.27 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-methylpyrrolidinone | 10 mL | CN1C(CCC1)=O | C5H9NO
reactant | 2-chloro-3-fluoro-4-(trifluoromethyl)pyridine | 4.61 mmol, 0.920 g | ClC1=NC=CC(=C1F)C(F)(F)F | C6H2ClF4N
solvent | Water | 50 mL | O | H2O
product | 2-chloro-3-(3,5-dibromophenoxy)-4-(trifluoromethyl)pyridine | ClC1=NC=CC(=C1OC1=CC(=CC(=C1)Br)Br)C(F)(F)F | C12H5Br2ClF3NO
